US07622589B2
38A) 4-tert-Butyl-3,5-difluorophenol
A mixture of 3,5-difluorophenol (TCl, 14 g, 107 mmol), tert-butyl methyl ether (12.8 ml, 108 mmol) and zirconium(IV) chloride (25 g, 107 mmol) was stirred for 12 hours at 55 ° C., followed by addition of tert-butyl methyl ether (6.4 ml, 54 mmol). The additional injection of tert-butyl methyl ether (6.4 ml, 54 mmol), was repeated 8 times at intervals of 24 hours and then the reaction was quenched with saturated ammonium chloride aqueous solution and 2 M HCl aqueous solution. The whole was extracted with DCM, washed with brine, and dried over magnesium sulfate. The organic layer was evaporated to give a crude residue which was purified by silica gel column chromatography, eluting with gradually from hexane only to hexane/EtOAc (10:1), to give the title compound (10.8 g, 54%) as white solids.

reactant | 3,5-difluorophenol | 107 mmol, 14 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | tert-butyl methyl ether | 108 mmol, 12.8 ml | COC(C)(C)C | C5H12O
reactant | tert-butyl methyl ether | 54 mmol, 6.4 ml | COC(C)(C)C | C5H12O
reactant | tert-butyl methyl ether | 54 mmol, 6.4 ml | COC(C)(C)C | C5H12O
catalyst | zirconium(IV) chloride | 107 mmol, 25 g | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
product | 4-tert-Butyl-3,5-difluorophenol | 10.8 g, 54% | C(C)(C)(C)C1=C(C=C(C=C1F)O)F | C10H12F2O
